US05382592
1-(Trimethylsilyl)-4-(t-butyldimethylsiloxy)-1-butyne (13)
To a solution of 1-(t-butyldimethylsiloxy)-3-butyne (49.0 g, 0.27 mol) in 250 mL of THF, at -78° C. under Ar, was added a solution of n-butyllithium (1.6 M in hexane, 170 mL, 0.27 mol) over ca. 45 min. The mixture was stirred at -78° C. for 30 min and then at 0° C. for 1.5 h. The resulting solution was recooled at -78° C. and then trimethylsilyl chloride (34.0 mL, 0.27 mol) was added dropwise. After the addition the mixture was allowed to warm to room temperature over 18 h and then it was diluted with hexane, washed (H2O, sat. aq. NaHCO3, brine), dried (Na2SO4) and evaporated to give an oil. Distillation at reduced pressure afforded the title compound (60.0 g, 88%) as a colourless oil, bp 70°-75° C./0.1 mm: IR (neat) 2180, 1253, 1112, 841 cm-1 ; 1H NMR (CDCl3, 200 MHz) δ3.72 (t, J=7.0 Hz, 2H), 2.43 (t, J=7.0 Hz, 2H), 0.90 (s, 9H), 0.14 (s, 9H), 0.07 (s, 6H).

reactant | 1-(t-butyldimethylsiloxy)-3-butyne | 0.27 mol, 49.0 g | O([Si](C)(C)C(C)(C)C)CCC#C | C10H20OSi
reactant | n-butyllithium | 0.27 mol, 1.6 M, 170 mL | C(CCC)[Li]
reactant | trimethylsilyl chloride | 0.27 mol, 34.0 mL | C[Si](C)(C)Cl | C3H9ClSi
solvent | THF | 250 mL | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 1-(Trimethylsilyl)-4-(t-butyldimethylsiloxy)-1-butyne | 60.0 g, 88% | C[Si](C#CCCO[Si](C)(C)C(C)(C)C)(C)C | C13H28OSi2
